US04212865
Using the method of Example 12, 6-amino-2-nitro-3-phenylbenzofuran is reacted with acetic anhydride to provide 6-acetamido-2-nitro-3-phenylbenzofuran, m.p. 212°-214° C.

reactant | 6-amino-2-nitro-3-phenylbenzofuran | NC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C14H10N2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-acetamido-2-nitro-3-phenylbenzofuran | C(C)(=O)NC1=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C=C1 | C16H12N2O4
